US07989462B2
(2-Methyl-quinazolin-4-yl)-(4-methoxycarbonylamino-phenyl)-methylamine
To a mixture of (4-amino-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine (75 mg, 0.28 mmol) in 5 mL of THF with K2CO3 (80 mg, 0.58 mmol) and Na2SO4 (80 mg, 0.56 mmol) cooled at 0° C. was added methyl chloroformate (200 uL, 2.6 mmol), followed by 500 uL of water dropwise while stirring vigorously. The mixture was stirred for 5 min at 0° C., and diluted with 25 mL of ethyl acetate. The mixture was washed with saturated NaHCO3, the organic layer was dried over anhydrous Na2SO4, filtered and concentrated. The crude was purified by column chromatography (45% ethyl acetate/hexane) to give the title compound (65 mg, 0.20 mmol, 71%). 1H NMR (CDCl3): 7.74 (m, 1H), 7.53 (ddd, J=8.4, 6.6, 1.8, 1H), 7.40 (m, 2H), 7.04-7.12 (m, 3H), 6.97 (m, 1H), 6.73 (s, broad, 1H), 3.80 (s, 3H), 3.60 (s, 3H), 2.73 (s, 3H).

reactant | (4-amino-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine | 0.28 mmol, 75 mg | NC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C16H16N4
reactant | K2CO3 | 0.58 mmol, 80 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Na2SO4 | 0.56 mmol, 80 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | methyl chloroformate | 2.6 mmol, 200 uL | ClC(=O)OC | C2H3ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 500 uL | O | H2O
product | (2-Methyl-quinazolin-4-yl)-(4-methoxycarbonylamino-phenyl)-methylamine | 0.20 mmol, 65 mg, 71% | CC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)NC(=O)OC | C18H18N4O2
